US07153815B2
40% aqueous solution of methylamine (78 mg, 1.0 mmol) was gradually added to a solution of N-(6-chloro-3-pyridylmethyl)-2-chloro-2-(4-trifluoromethylphenyl hydrazono) acetic acid amide (Compound No. 5) (0.4 g, 1 mmol) and triethylamine (0.1 g, 1 mmol) in tetrahydrofuran (10 ml) and left at room temperature overnight. Further, 40% aqueous solution of methylamine (10 mg, 0.13 mmol) was added and stirred at room temperature for 1 hour, and thereafter subjected to extraction by adding ethyl acetate and water. The organic phase was washed with a saturated brine, and then dried on anhydrous sodium sulfate. The resulting residue was purified with a silica gel chromatography to obtain N-(6-chloro-3-pyridylmethyl)-2-methylamino-2-(4-trifluoromethylphenyl hydrazono) acetic acid amide (Compound No. 191) (0.13 g, 0.34 mmol, 34%).

reactant | methylamine | 1.0 mmol, 78 mg | CN | CH5N
reactant | N-(6-chloro-3-pyridylmethyl)-2-chloro-2-(4-trifluoromethylphenyl hydrazono) acetic acid amide | ClC1=CC=C(C=N1)CNC(C(=NNC1=CC=C(C=C1)C(F)(F)F)Cl)=O | C15H11Cl2F3N4O
reactant | triethylamine | 1 mmol, 0.1 g | C(C)N(CC)CC | C6H15N
reactant | methylamine | 0.13 mmol, 10 mg | CN | CH5N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-(6-chloro-3-pyridylmethyl)-2-methylamino-2-(4-trifluoromethylphenyl hydrazono) acetic acid amide | ClC1=CC=C(C=N1)CNC(C(=NNC1=CC=C(C=C1)C(F)(F)F)NC)=O | C16H15ClF3N5O
